US07557137B2
Step D(1). (1S,2S)2-(1-Azido-2-phenyl-ethyl)-oxirane
A solution of 1.0 g (2.5 mmol) of 4-Nitro-benzenesulfonic acid 3-azido-2-hydroxy-4-phenyl-butyl ester (Kick, E. K.; Ellman, J. A. J. Med. Chem. 1995, 38, 1427-30) in 12 mL of Ethanol and 8 mL of ethyl acetate is treated with KOH (157 mg, 2.8 mmol). After 2 h at rt 10 mL of water is added and 20 mL of CH2Cl2 is added. The organic layer is separated, washed with brine and Na2SO4, and concentrated. Chromatography eluting with hexanes/ethyl acetate 5:1 provides 450 mg (95%) of the desired product. 1H NMR (δ) 7.21-7.36 (m, 5H), 3.58 (dt, 2H, J=9, 5 Hz), 3.05 (m, 1H) 2.97 (dd, 1H, J=13.9, 4.8), 2.77-2.83 (m, 3H).

reactant | 4-Nitro-benzenesulfonic acid 3-azido-2-hydroxy-4-phenyl-butyl ester | 2.5 mmol, 1.0 g | N(=[N+]=[N-])C(C(COS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])O)CC1=CC=CC=C1 | C16H16N4O6S
reactant | ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
reactant | KOH | 2.8 mmol, 157 mg | [OH-].[K+]
reactant | water | 10 mL | O | H2O
solvent | Ethanol | 12 mL | C(C)O | C2H6O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (1S,2S)2-(1-Azido-2-phenyl-ethyl)-oxirane | 450 mg, 95% | N(=[N+]=[N-])[C@@H](CC1=CC=CC=C1)[C@@H]1OC1 | C10H11N3O
